### PR TITLE
[Merged by Bors] - feat(Tactic): `inclusion` tactic (highly extensible engine for interval arithmetic, ball arithmetic etc...)

### PR DESCRIPTION
**Pull request by DavidLedvinka**
## Overview

The primary function of the inclusion tactic is as follows: Given an expression `e` (for example the type of a goal), compute an inclusion expression for `e`:

(In `Inclusion/Core/Types`)
```lean
structure ExprInclusion where
  inclusion : Expr
  proof : Expr
```

where `inclusion` is some expression that is built up of some kernel computation friendly expressions in some kernel computation friendly type, and `proof` is a proof of `e ∈ inclusion`.

Since `inclusion` itself is meant to live in some kernel computation friendly type, we need a way to interpret `inclusion` as a set in the type of `e`. That is the idea behind the following class :

(In `Inclusion/Core/ToSet`)
```lean
class ToSet (Iα : Type*) (α : outParam Type*) where
  toSet : Iα → Set α
```

Examples can be things like "intervals with dyadic endpoints" to sets of `ℝ`, "vectors of intervals of dyadic endpoints" to sets of `ℝⁿ`, "balls with a dyadic complex center and dyadic radius" to sets of `ℂ` etc...

The most important example however is `IntervalBool` to `Prop`:

```lean
def IntervalBool.toPropSet : IntervalBool → Set Prop
  | true => {True}
  | false => {False}
  | undetermined => {True, False}

instance : ToSet IntervalBool Prop := ⟨IntervalBool.toPropSet⟩
```

Using this, the tactic can generate an inclusion expression for a goal like `x ^ 2 + 1 < 5`, and then
the proof of the goal is `proof` that `(x ^2 + 1 < 5) ∈ inclusion` along with a proof by reflection
that `inclusion = IntervalBool.true`.

## Constructing `ExprInclusion`s

`ExprInclusion`s are constructed in two phases which take place inside two different monads. The first phase takes place in the `InclusionM` monad and is to construct an inclusion body:

(In `Inclusion/Core/Types`)
```lean
structure ExprInclusionBody where
  inclusionBody : Expr
  proofBody : Expr
```

which is the same as `ExprInclusion` except that `inclusionBody` is allowed to have "free `IVar`s (inclusion variables)" (see the structure `IVar` in `Inclusion/Core/Types`) which represent "atomic" variables whose initial value will be determined by hypotheses in the local context (in the next phase). As an example, if we are applying the `inclusion` tactic to the goal `(x : ℝ) + 1 ≤ 5` then (depending on which extensions we have enabled) we might have that `x` is made into an `IVar`, which contains the expression of a placeholder variable `I` (which could be of type `Interval Dyadic` for example) and a placeholder hypothesis `x ∈ I`. For technical reasons these variables are synthetic opaque metavariables rather than free variables.

Remark: The technical reason that `IVar`s use synthetic opaque metavariables is that metavariables
are stored in the state of MetaM and are mutable. Free variables are stored in the local context
and are not mutable. Since the tactic constructs `IVar`s during the `InclusionM` phase and doesn't
know how many `IVars` there are or what they will be, it makes it difficult to use free variables.

The `InclusionM` phase uses inclusion extensions:

(In `Inclusion/Core/Extensions`)
```lean
structure InclusionExt where
  declName : Name := by exact decl_name%
  family : Name
  userName : Name := declName
  derive (e : Expr) : InclusionM ExprInclusionBody
  priority : Nat := eval_prio default
```

which belong to families (for example `interval_dyadic_real` containing extensions involving computations as intervals of dyadics as inclusions for operations on the reals) and are registered under discrimination tree keys which determine which expressions they match on (and thus can possibly apply to).

The main driver of this phase is the function `mkExprInclusionBody` (in`Inclusion/Core/Inclusion`) which collects all the extensions (from enabled families) that match the current expression `e`, sort them in order of priority, and then try applying their `derive` to `e` until one succeeds in producing an `ExprInclusionBody`. The expectation is that if `derive e` succeeds it should produce a valid `ExprInclusionBody` for `e` and the metadata in the InclusionM monad should be up to date. Many `derive`s will recursively call `mkExprInclusionBody`, for example you would expect that the extension which matches `e := e1 ≤ e2` will call `mkExprInclusionBody` on `e1` and `e2` and then combine the results to produce the `ExprInclusionBody` for `e`.

The second phase takes place in the `HypothesisM` monad. In this phase, initial inclusion expressions
for each `IVar` appearing in the `ExprInclusionBody` (constructed in the previous phase) are derived
from hypotheses in the local context. Then these hypotheses are used to "close" the body and
construct the final `ExprInclusion`. If an `IVar` has an enabled `cover` it is used to "divide" the
inclusion computation into checks on each of the smaller pieces, effectively creating a refined
inclusion function.

This phase uses hypothesis extensions:

(In `Inclusion/Core/Extensions`)
```lean
structure HypothesisExt where
  declName : Name := by exact decl_name%
  family : Name
  userName : Name := declName
  derive (h : Expr) : HypothesisM Unit
  priority : Nat := eval_prio default
```
which also belong to families and are registered under discrimination tree keys just like
`InclusionExt`s. Here though `derive h` generates inclusion hypotheses from a local hypotheses `h`
and puts them into the state of HypothesisM. The main driver for this phase is `collectHyps` (in `Inclusion/Core/Inclusion`) which loops over all local declarations `h`, finds all hypothesis
extensions matching the type of `h`, and then tries each of their `derive` functions. The changes
made by a failed extension are rolled back, while every successful extension is allowed to add one or more inclusion hypotheses.

## Params

It is convenient to allow `InclusionExt`s and `HypothesisExt`s to depend on shared parameters
which can be set by the user:

(In `Inclusion/Core/Extensions`)
```lean
structure InclusionParamDecl where
  name : Name
  type : Expr
  defaultValue? : Option Expr := none
```

The two examples in the current PR are:

`prec`: which sets the dyadic precision (in bits) that each extension should use
`binSplit`: which sets the depth of binary interval splitting for each `IVar`.

These can be set by the user when calling the tactic like:

`inclusion [core, interval_dyadic_real, prec := 20, binSplit := 3]`

Two additional features which are not present in the current PR
(and will require a bit of refactoring) which will be added later are:

1. The ability to set "local" params. An important example being you may only want to set
binary splitting on one specific variable (since doing it on each grows the number of cases
exponentially)

2. The ability for `inclusion?` to "search" for optimal parameters using a compiled `ExprInclusion`
function. To be maximally efficient these will have to be restricted to specific types (maybe
just Nats) so that the function can be compiled once and used repeatedly.

## Writing Extensions

One can directly write inclusion and hypotheses extensions like:

```lean
@[inclusionExt (_ : ℝ)]
meta def mkRealIVar : InclusionExt :=
  mkNDIVarExt `interval_dyadic_real
    ⟨q(ℝ), q(Interval Dyadic), q(instToSetIntervalDyadicReal)⟩ mkBinarySplitCover
```

```lean
@[hypothesisExt _ ∧ _]
meta def andHyp : HypothesisExt where
  family := `core
  derive h := do
    let (``And, #[_, _]) := (← instantiateMVars (← inferType h)).getAppFnArgs | failure
    runHypothesisExts (← mkAppM ``And.left #[h])
    runHypothesisExts (← mkAppM ``And.right #[h])
```

where each expression supplied to `inclusionExt` or `hypothesisExt` is elaborated and then converted
into a DiscrTreeKey that the extension matches on.

However it is up to the extender to make sure both that the extension is deriving the right
inclusion body or hypotheses and is correctly maintaining the state of the current monad. This
approach to writing extensions gives significant flexibility but also could be highly error prone.
Just like MetaM has both lots of low level functions that are capable of breaking things and should usually be avoided, as well as higher level functions that are meant to be safer for tactic writers
to use, `Inclusion/ExtensionAPI` is meant to provide functions that extenders can use which maintain
the invariants expected by the `InclusionM` or `HypothesisM` monad. Most of these are currently
in `Inclusion/ExtensionAPI/Basic`. I expect many more to be added as the tactic develops.

The rules for `InclusionM` are:

* When an `InclusionExt` succeeds on an expression `e`, it must return an `ExprInclusionBody` whose
  `proofBody` proves `e ∈ inclusionBody` using a `ToSet` instance.
* Every inclusion-variable placeholder in the returned body must belong to an `IVar` registered in
  `InclusionM.State`. Its `setVar` must have the registered set type, and its `hypVar` must prove
  that its associated expression belongs to `setVar` using the registered `ToSet` instance.
* Every registered `IVar` must be well formed in the initial local context. If it has a cover, the
  cover expression must have the corresponding `Cover` type.
* The returned body must not depend on untracked metavariables or temporary free variables
  introduced while running the extension.

The rules for `HypothesisM` are:

* Every inclusion hypothesis added by a `HypothesisExt` must be associated with an existing `IVar`.
* Each added `ExprInclusionBody` must have the same element type, set type, and `ToSet` instance as
  that `IVar`. Its `proofBody` must prove that the associated expression belongs to its
  `inclusionBody`.
* An added `inclusionBody` must not contain unresolved inclusion-variable placeholders. 

But for certain `InclusionExt`s or `HypothesisExt`s that fit a (very specific) mold, there is an
API for defining extensions that doesn't even require metaprogramming. Instead you add a attribute
to a theorem which must be formatted in a specific way. We give these a special name
`InclusionOp`s and `HypothesisOp`s. Here are some examples:

```lean
@[inclusionOp interval_dyadic_real]
theorem add_mem {x y : ℝ} {I J : Interval Dyadic} (hx : x ∈ I) (hy : y ∈ J) :
    x + y ∈ I.add J :=
  Interval.add_mem Dyadic.toRealAddMonoidHom hx hy
```

```lean
@[hypothesisOp interval_dyadic_real]
theorem Iic_mem_of_le {x y : ℝ} {I : Interval Dyadic} (hxy : x ≤ y) (hy : y ∈ I) :
    x ∈ Interval.Iic I.ub :=
  Interval.mem_Iic_of_le hxy hy
```

The rules for `InclusionOp`s are:

* The theorem must conclude with an inclusion `e ∈ I` using a `ToSet` instance. The expression
  `e` becomes the discrimination-tree pattern, while `I` becomes the resulting inclusion body.
* Every hypothesis of the form `x ∈ X` using a `ToSet` instance is treated as a recursive input.
  Both `x` and `X` must be theorem variables, and `x` must occur in `e`. The generated extension
  recursively constructs an inclusion body for `x`, then substitutes its inclusion and proof for
  `X` and the hypothesis.
* To use a registered inclusion parameter, the theorem must have an argument with the same name and
  type as that parameter. The generated extension supplies its current value. The parameter may
  occur in `I`, but it may not occur in `e`.
* All remaining theorem arguments must be determined by matching the theorem or by typeclass
  synthesis.

The rules for `HypothesisOp`s are:

* The theorem must conclude with an inclusion `e ∈ I` using a `ToSet` instance.
* The theorem must have exactly one explicit proposition hypothesis which is not itself an inclusion.
  This hypothesis is the source hypothesis, and its type becomes the discrimination-tree pattern. Its
  proof may not occur in `e` or `I`.
* Every hypothesis of the form `x ∈ X` using a `ToSet` instance is treated as a recursive input.
  Both `x` and `X` must be theorem variables, and `x` must occur in the source hypothesis. The
  generated extension recursively constructs a closed inclusion body for `x`, then substitutes its
  inclusion and proof for `X` and the hypothesis.
* When the generated extension runs, `e` must be the expression associated with an existing `IVar`.
  The extension adds `I` as an inclusion hypothesis for that `IVar`.
* To use a registered inclusion parameter, the theorem must have an argument with the same name and
  type as that parameter. The generated extension supplies its current value. The parameter may
  occur in `I`, but it may not occur in the source hypothesis or `e`.
* All remaining theorem arguments must be determined by matching the theorem or by typeclass
  synthesis.

- [ ] depends on: #43194

### CODE REVIEW

File: Mathlib/Tactic/Inclusion/Core/ToSet.lean [hunk 1]
```diff
@@ -0,0 +1,195 @@
...
+
+/-- A `ToSet Iα α` instance provides a way of interpreting elements of `Iα` as sets of `α`,
+through a function `toSet : Iα → Set α`. In its use in the `inclusion` tactic, `Iα` will be
+a type with good computational properties (such as `Interval Dyadic`) and `α` will be some
+type that appears in the user's expression, such as `ℝ`. -/
+class ToSet (Iα : Type*) (α : outParam Type*) where
+  /-- The mapping of elements of `Iα` to sets in `α`. -/
+  toSet : Iα → Set α
+
+instance {Iα α : Type*} [ToSet Iα α] : CoeTC Iα (Set α) where
```
Comment (Vierkantor) [inline Mathlib/Tactic/Inclusion/Core/ToSet.lean]: Should be another Coe class.

File: Mathlib/Tactic/Inclusion/Core/ToSet.lean [hunk 2]
```diff
@@ -0,0 +1,195 @@
...
+lemma ToSet.mem_of_eq_of_mem {Iα α : Type*} [ToSet Iα α] {x y : α} {s : Iα}
+    (hxy : x = y) (hy : y ∈ s) : x ∈ s := hxy ▸ hy
+
+lemma ToSet.mem_of_mem_of_eq {Iα α : Type*} [ToSet Iα α] {x y : α} {s : Iα}
+    (hxy : x = y) (hx : x ∈ s) : y ∈ s := hxy ▸ hx
+
+/-- A `Univ Iα α` instance is a specification of an element `univ : Iα` such that
+every element of `α` belongs to `univ`. This is useful for assigning a container to
+inclusion variables that have no inclusion hypotheses. -/
+class Univ (Iα α : Type*) [ToSet Iα α] where
```
Comment (Vierkantor) [inline Mathlib/Tactic/Inclusion/Core/ToSet.lean]: Unbundled, for flexibility? Does result in larger terms. Probably the right decision.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 3]
```diff
@@ -82,14 +82,21 @@ public register_option linter.style.admit : Bool := {
   descr := "enable the admit linter"
 }
 
-/-- The option `linter.style.nativeDecide` of the deprecated syntax linter flags usages of
-the `native_decide` tactic, which is disallowed in mathlib. -/
+/-- The option `linter.style.native` of the deprecated syntax linter flags proof tactics
```
Comment (Vierkantor) [inline Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean]: Can splice-merge this whole file IMO.

File: Mathlib/Lean/Meta/DiscrTreeExt.lean [hunk 4]
```diff
@@ -0,0 +1,72 @@
...
+public meta section
+
+open Lean Elab Term Lean.Meta
+
+namespace DiscrTreeExt
+
+/-- Evaluate `declName` as a value of type `α`, checking that its Lean type is `typeName`. -/
+def evalDecl (α : Type) (typeName declName : Name) : ImportM α := do
+  let { env, opts, .. } ← read
+  IO.ofExcept <| unsafe env.evalConstCheck α opts typeName declName
```
Comment (Vierkantor) [inline Mathlib/Lean/Meta/DiscrTreeExt.lean]: Need to think about this a bit more. Potentially unsafe?

File: Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean [hunk 5]
```diff
@@ -0,0 +1,46 @@
...
+syntax (name := dyadicInterval) "dyadic_interval" optConfig
+  (" [" inclusionArg,* "]")? : tactic
+
+macro_rules
+  | `(tactic| dyadic_interval $cfg:optConfig) =>
+      `(tactic| inclusion $cfg [core, interval_dyadic_real])
+  | `(tactic| dyadic_interval $cfg:optConfig [$args,*]) =>
+      `(tactic| inclusion $cfg [core, interval_dyadic_real, $args,*])
+
+/-- `dyadic_interval?` checks whether `dyadic_interval` can prove the goal without closing it. -/
```
Comment (joneugster) [inline Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean]: The fact that `dyadic_interval?` wouldn't close the goal was quite surprising to me, as it seems different from all other `...?` tactics. What was the motivation for this?

File: Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean
Comment (joneugster) [inline Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean:1]: One thing still missing from the PR is the documentation. Basically, I would like to hover over anything user-facing (i.e. in the test file) and get a useful explanation what this does.

Additionally (a bit less important) module docstrings.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean
Comment (joneugster) [inline Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:1]: it's not that much code, but I think it would be good to split the changes to this linter (the generic refactors not depending on `inclusion`) into an (possibly `easy`) separate PR

File: Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean [hunk 6]
```diff
@@ -0,0 +1,72 @@
...
+variable {α : Type}
+
+/-- Return the declaration values whose `DiscrTree` keys match `e`. -/
+def State.getMatch (state : State α) (e : Expr) : MetaM (Array α) := state.tree.getMatch e
+
+/-- Create a scoped environment extension whose declarations have type `typeName`. By default, the
+environment extension is named after the declaration in which this function is called. -/
+def initializeEnvExt (typeName : Name)
+    (envExtName : Name := by exact decl_name%) : IO (EnvExt α) := do
+  -- we only need this to deduplicate entries in the DiscrTree
```
Comment (joneugster) [inline Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean]: I think I didn't quite understand what's happening here. Could you help me out?

File: Mathlib/Tactic/Inclusion/Extension/Interval.lean
Comment (joneugster) [inline Mathlib/Tactic/Inclusion/Extension/Interval.lean:1]: Q: do we not have any structure like `Interval` in Mathlib so far? Feels almost like this should not live inside the tactic's folder but used in general and connect to e.g. the existing `Set.Icc` etc.

Would that generally make sense, or is there a reason why the tactic needs its own, private definition what an interval is?

(as a consequence of the answer here, one might also ask if stuff about `Intervals on dyadics` should live in public API instead of inside the tactic's folder)

**Review by joneugster — COMMENTED** [review]
Thanks for the PR! Overall I think this is already in quite good shape. Two things I've noticed, which are also mentioned above:

- it would be good to have more documentation, maybe also relating the tactic to other, existing tactics (i.e. when should I use `linarith` when `dyadic_interval` when talking about inequalities on reals?)
- I've noticed that recently newer tactics tend to have quite a lot of API localised to the tactic's folder. I think it would be desirable to think about which parts make sense to be generic (public) API, so that the tactic itself remains slicker. In this case it seems to be mainly the theory about `Dyadics` and `Intervals`, see question above

(for context: I've done only a superficial review with focus on maintainability, so there might be the need for a more detailed one in the future)

File: Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean (hunk 5 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean]: The idea here is that `dyadic_interval?` only does a compiled check, it doesn't do any kernel reduction (but unlike dyadic_interval +native doesn't claim to have proved it). This means that it succeeds and fails extremely quickly. The idea is that you can use it to find the right parameters that work for the tactic. In the future I plan to add a feature that lets it binary search for the optimal parameter (and perhaps other search options as well). 

However if you think the name is confusing I am happy to change it to something else.

File: Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean:1]: Yes this is fair. I will work on adding more.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean
Comment (DavidLedvinka) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:1]: Yes I can do this.

File: Mathlib/Tactic/Inclusion/Extension/Interval.lean
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Extension/Interval.lean:1]: The reason I make this decision is basically that all the Interval definitions are setup to optimize for kernel reduction and not be user facing / convient for theory. They should not be (perhaps accidentally) refactored to help with proofs because this will effect performance of the tactic. Sometimes theorems may need to be stated at weirdly specific generality because of performance reasons etc. My inclination is that in general one should just use Set.Ixx. I put the dyadic stuff outside of the tactic folder because I thought it may be used elsewhere.

File: Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean (hunk 6 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean]: I am not sure if you are asking about this function as a whole or the comment on line 50? 

The function as a whole is what actually registers the corresponding environment extension. This is essentially copied from `initialize normNumExt` on line 85 of Mathlib/Tactic/NormNum/Core. On that note I designed this such that I believe norm_num could be refactored to use this DiscreTreeExt, but since this a part of metaprogramming that I understand less I wanted to see if reviewers thought it would be a good idea first. 

The specific comment in reference to the line `have : BEq NormNumExt := ⟨fun _ _ ↦ false⟩` 
is also a direct copy from `norm_num`, and the point as I understand it, is that DiscreTree uses the BEq instance to deduplicate values, so we add an always false Beq instance to tell it not to deduplicate anything.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean
Comment (DavidLedvinka) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:1]: #43194

File: Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean [hunk 7]
```diff
@@ -0,0 +1,72 @@
...
+  IO.ofExcept <| unsafe env.evalConstCheck α opts typeName declName
+
+/-- The discrimination-tree paths and declaration name stored in an `.olean` entry. -/
+abbrev Entry := Array (Array DiscrTree.Key) × Name
+
+/-- The state of a discrimination-tree environment extension. -/
+structure State (α : Type) where
+  /-- The discrimination tree of the extension. -/
+  tree : DiscrTree α := {}
+  deriving Inhabited
```
Comment (thorimur) [inline Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean:52]: Just wondering, what's the intention behind using a one-field structure here? Is it because we want different API/instances on this `State`, or because we want to add fields eventually (or some other reason)?

File: Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean (hunk 6 above)
Comment (thorimur) [reply Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean]: It will be very nice to refactor lots of similar meta code to use this common interface! :) (A quick search shows we rewrite specific versions of the exact `evalDecl` pattern 5 times in mathlib already...) But indeed let's do that in another PR.

In fact, it might make sense to start with this file in the Inclusion folder in this PR, with plans to move it into a more general fodler in another PR (and to refactor everything!), and on that PR we can discuss whether it fits the general-purpose shape more thoroughly. But I personally would definitely like to see that! :)

File: Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean (hunk 7 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean:52]: Yeah the plan would be to add for example "erased" like in `norm_num`. I just cut this feature for v1. If I were to make a PR refactoring `norm_num` to use this API this would be needed.

File: Mathlib/Tactic/Inclusion/Core/Core.lean [hunk 8]
```diff
@@ -0,0 +1,85 @@
...
+  | .false => throwError "The proposition is provably false"
+  | .undetermined => throwError "The proposition was not proven true or false."
+
+/-- Prove that `inclusionExpr` equals `IntervalBool.true` using kernel reduction
+(without any prior compiled check). -/
+def mkKernelInclusionTrueProof (inclusionExpr : Expr) : MetaM Expr := do
+  let expectedType ← mkEq inclusionExpr (mkConst ``IntervalBool.true)
+  let lemmaLevels := (collectLevelParams {} expectedType).params.toList
+  try
+    let lemmaName ← withOptions (Elab.async.set · false) do
```
Comment (thorimur) [inline Mathlib/Tactic/Inclusion/Core/Core.lean:59]: Why do we set `Elab.async` to false here? (Does it potentially escape the `catch` otherwise, I'm guessing?)

File: Mathlib/Tactic/Inclusion/Core/Core.lean [hunk 9]
```diff
@@ -0,0 +1,85 @@
...
+      mkAuxLemma lemmaLevels expectedType (mkIntervalBoolRefl inclusionExpr)
```
Comment (thorimur) [inline Mathlib/Tactic/Inclusion/Core/Core.lean:60]: (Just wondering, have you considered `mkAuxTheorem` here?)

File: Mathlib/Tactic/Inclusion/Core/Core.lean (hunk 8 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Core/Core.lean:59]: This is directly copied from the core implementation of `decide +kernel` (similarly the approach to +native copies `decide_native`), but yeah thats my understanding of why its there. I didn't explicitly test this though and perhaps could.

Comment (thorimur) [reply Mathlib/Tactic/Inclusion/Core/Core.lean:59]: Aha, gotcha. :) Fwiw I know Jon has already mentioned documentation, and I'll add to that: for maintenance, if some code mirrors or was motivated by some other code, it's very useful to point it out in a small comment in source! :)

(Here it also serves as an explanation for nontrivial behavior, but this is useful even if the comment is not explaining anything, since in the future, they're easier to keep in sync. Either the motivating code may change, then someone looking at this code may ask "is there a reason these two deliberately *aren't* the same when they're doing similar things?" and struggle for an answer, or someone may realize they ought to change this code and then also know they ought to change the motivating code (more relevant for non-core code, of course!).)

File: Mathlib/Tactic/Inclusion/Core/Core.lean (hunk 9 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Core/Core.lean:60]: I did not, this was also just copied from `decide`. If you think it would be better I could use that instead.

File: Mathlib/Tactic/Inclusion/Core/Elab.lean [hunk 10]
```diff
@@ -0,0 +1,87 @@
...
+@[tactic inclusion?]
+def inclusion?Tac : Tactic
+  | `(tactic| inclusion? [$args,*]) => do
+      let config ← collectInclusionArgs args.getElems
+      withoutModifyingStateWithInfoAndMessages <| withMainContext do
+        try
+          discard <| inclusionCore (← getMainTarget) config
+          logInfo "The inclusion check succeeded."
+        catch err =>
+          logInfo m!"The inclusion check failed:\n{err.toMessageData}"
```
Comment (thorimur) [inline Mathlib/Tactic/Inclusion/Core/Elab.lean]: Nit:
```suggestion
          logError m!"The inclusion check failed:\n{err.toMessageData}"
```

File: Mathlib/Tactic/Inclusion/Core/Expr.lean [hunk 11]
```diff
@@ -0,0 +1,126 @@
...
+
+open Lean Meta
+
+namespace Inclusion
+
+/-- If `e` is an `Expr` of the form `x ∈ s` using a `ToSet` instance, return
+`some (x, s, toSetInst)`. -/
+def toSetMem? (e : Expr) : Option (Expr × Expr × Expr) := do
+  let (``Membership.mem, #[_, _, membershipInst, s, x]) := e.getAppFnArgs | none
+  let (``instMembershipOfToSet, #[_, _, toSetInst]) := membershipInst.getAppFnArgs | none
```
Comment (thorimur) [inline Mathlib/Tactic/Inclusion/Core/Expr.lean]: Any reason not to use `let_expr` here?
```suggestion
  let_expr Membership.mem _ _ membershipInst s x := e | none
  let_expr instMembershipOfToSet _ _ toSetInst := membershipInst | none
```

File: Mathlib/Tactic/Inclusion/Core/Expr.lean [hunk 12]
```diff
@@ -0,0 +1,126 @@
...
+/-- Given
+
+· a source inclusion body for `iVar`,
+· `output : IExpr`,
+· `cover : Cover iVar.type.setType iVar.type.elemType`,
+· `coarsen : Coarsen output.iType.setType output.iType.elemType`,
+· `inclusion : iVar.type.setType → output.iType.setType`, and
+· `proof : ∀ s, iVar.expr ∈ s → output.expr ∈ inclusion s`,
+
+create a proof of `output.expr ∈ cover.coverMap source.inclusionBody inclusion`. -/
```
Comment (thorimur) [inline Mathlib/Tactic/Inclusion/Core/Expr.lean:67]: I know you've expressed reasons for not using Qq in the past, but I should probably still ask: all of this documentation could become part of the type signature! :) Did Qq just make things terrible if you used it here? Perhaps this isn't just for review per se; I'm also curious about what may go wrong if you use Qq for the purpose of improving Qq. :)

File: Mathlib/Tactic/Inclusion/Core/Inclusion.lean [hunk 13]
```diff
@@ -0,0 +1,167 @@
...
+        return some body
+      catch err =>
+        trace[Tactic.inclusion]
+          "Failed to apply {ppExtensionName ext.family ext.userName} to {e}: \
+            {err.toMessageData}"
+        restoreState savedState
+        return none
+    if let some body := body? then
+      trace[Tactic.inclusion] "Inclusion body:\n {← ppInclusionExpr body.inclusionBody}"
+      return body
```
Comment (thorimur) [inline Mathlib/Tactic/Inclusion/Core/Inclusion.lean]: Just stylistic, but fun fact, here's little-used syntax I recently learned (`do←`) for accessing `do`-control flow within combinators:

```suggestion
    withTraceNode `Tactic.inclusion
      (fun _ => do return m!"Trying {ppExtensionName ext.family ext.userName}") do←
      try
        let body ← ext.derive e
        recordExtraModUseFromDecl (isMeta := true) ext.declName
        trace[Tactic.inclusion] "Inclusion body:\n {← ppInclusionExpr body.inclusionBody}"
        return body
      catch err =>
        trace[Tactic.inclusion]
          "Failed to apply {ppExtensionName ext.family ext.userName} to {e}: \
            {err.toMessageData}"
        restoreState savedState
```

(This is through github, let me know if it doesn't work :) )

File: Mathlib/Tactic/Inclusion/Core/ToSet.lean [hunk 14]
```diff
@@ -0,0 +1,189 @@
...
+  /-- If `x ∈ s` and `∀ t, x ∈ t → y ∈ F t` then `y ∈ coverMap s F`. -/
+  mem_coverMap {Iβ β : Type u} [ToSet Iβ β] [Coarsen Iβ β] {s : Iα} {F : Iα → Iβ} {x : α} {y : β}
+    (hx : x ∈ s) (hy : ∀ t, x ∈ t → y ∈ F t) : y ∈ coverMap s F
+
+section IntervalBool
+
+/-- An `IntervalBool` represents the result of a `Prop` inclusion and is either
+`true` (if the proposition is computed true), `false` (if the proposition is computed false),
+or `undetermined` (if the computation is indeterminate). -/
+inductive IntervalBool
```
Comment (thorimur) [inline Mathlib/Tactic/Inclusion/Core/ToSet.lean:97]: I don't think there's anything wrong with `IntervalBool` if you need interval-specific API on it (do you?) or if you think it makes this tactic more readable, but I'd be remiss not to mention [`Lean.LBool`](https://leanprover-community.github.io/mathlib4_docs/Lean/Data/LBool.html#Lean.LBool), which is *almost* the same :) Did you consider building API on top of that?

Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Core/ToSet.lean:97]: Woah no I was not aware of this. I could refactor to build on top of it.

File: Mathlib/Tactic/Inclusion/Core/Expr.lean (hunk 12 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Core/Expr.lean:67]: Aside from my general complaints, I think a fundamental issue for this tactic is that, it can't be used throughout the tactic because structures like ExprInclusionBody hold `Expr`s with types which are fundamentally unknown until runtime. Its possible there could be some localized uses of Qq but this creates one of the things that worry me where its hard to whats actually being type checked if its not end to end. You think its type safe but the type safety is not being used at call sites.

File: Mathlib/Tactic/Inclusion/Core/ToSet.lean [hunk 15]
```diff
@@ -0,0 +1,189 @@
...
+
+theorem IntervalBool.not_mem {p : Prop} {a : IntervalBool}
+    (hp : p ∈ a) : (¬p) ∈ a.not := by
+  cases a <;> by_cases hp' : p <;> simp_all [IntervalBool.not]
+
+/-- Conjunction of two `IntervalBool` values. -/
+def IntervalBool.and : IntervalBool → IntervalBool → IntervalBool
+  | .true, .true => .true
+  | .false, _ | _, .false => .false
+  | _, _ => .undetermined
```
Comment (thorimur) [inline Mathlib/Tactic/Inclusion/Core/ToSet.lean:145]: Should this (and `or`, and maybe some others) be `@[macro_inline]` for short-circuiting behavior? Or do `IntervalBool`s not really get interpreted, or even partake in much of the computation? (Might need to be restructured like `Bool.Internal.and` to make the IR shake out if they are regularly interpreted, not sure.)

File: Mathlib/Tactic/Inclusion/Core/ToSet.lean (hunk 14 above)
Comment (thorimur) [reply Mathlib/Tactic/Inclusion/Core/ToSet.lean:97]: Now that I'm looking at the API core provides, it does look pretty minimal. And `LBool.and` doesn't seem to short-circuit...? Plus, we get to have nice documentation if we do it here. I'm honestly kind of leaning towards saying it's better to keep `IntervalBool`, after all actually! Sorry for the noise. 😅

But maybe there should be a comment explaining that this is similar to `LBool` but with a more maintained API.

File: Mathlib/Tactic/Inclusion/Core/ToSet.lean (hunk 15 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Core/ToSet.lean:145]: It is used in computation. Good catch!

Comment (thorimur) [reply Mathlib/Tactic/Inclusion/Core/ToSet.lean:145]: Ah, good to know! :)

Do they feature heavily in kernel reduction as well? 👀 I'm wondering if it'll be worth (in subsequent PRs) doing the same dance done for e.g. `Bool.and`, where we feed *just* the kernel a recursor (by making it `noncomputable`), but feed IR a `macro_inline` by `csimp`ing the noncomputable definition. But if we do that can be a later perf improvement (if indeed it improves the perf) :)

Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Core/ToSet.lean:145]: Yeah. And yeah this is indeed part of the plan (did not have this particular optimization in mind but the idea of using csimp or implimented_by to optimize kernel and compiled compute seperately). But figured these more complicated things are better to wait for later. Obvious and simple improvements like tagging with macro_inline seem fine now though so please continue to point those out.

File: Mathlib/Tactic/Inclusion/ExtensionAPI/Attr.lean [hunk 16]
```diff
@@ -0,0 +1,326 @@
...
+-/
+
+public meta section
+
+open Lean Meta Elab Term DiscrTreeExt
+
+namespace Inclusion
+
+/-- Syntax for registering an inclusion parameter using the `inclusionParam` attribute. -/
+syntax (name := inclusionParamAttr) "inclusionParam" : attr
```
Comment (thorimur) [inline Mathlib/Tactic/Inclusion/ExtensionAPI/Attr.lean]: I'm so sorry to request this busy-work change, but the naming convention for attributes is lower_snake_case, and so this attribute and all the others ought to be changed. (There is `tacticAnalysis`, but I think this is the only one, and so it arguably should be changed as well...!)
```suggestion
syntax (name := inclusionParamAttr) "inclusion_param" : attr
```

I think this convention is "true", but not documented anywhere. I've brought it up on zulip [here](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Naming.20convention/near/619939592)

File: Mathlib/Tactic/Inclusion/Core/Core.lean (hunk 9 above)
Comment (thorimur) [reply Mathlib/Tactic/Inclusion/Core/Core.lean:60]: Let's leave it as "whatever `decide` does" for now :)

File: Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean
Comment (thorimur) [reply Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean:1]: Specifically, if I can request something: a module docstring explaining the use of the tactic with an `## Implementation` section sketching how it works, and how the different needs it has are organized among the different files, would be really great :)

Do you expect there to be a file whose job it is to import all of the inclusion tactic files, as with e.g. Mathlib.Tactic.NormNum? That might be a good place for it, even if it's not doing much work in this PR.

Note: `norm_num` notably does not have this, but it should :(

File: Mathlib/Tactic/Inclusion/Core/Elab.lean [hunk 17]
```diff
@@ -0,0 +1,87 @@
...
+-/
+
+public meta section
+
+open Lean Meta Elab Tactic
+open Lean.Parser.Tactic
+
+namespace Inclusion
+
+/-- Declare elaborator for the configuration `InclusionConfig` of the `inclusion` tactic. -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/Inclusion/Core/Elab.lean]: I don't think we need a docstring here since the code itself is clear enough.
```suggestion
```

File: Mathlib/Tactic/Inclusion/Core/Elab.lean [hunk 18]
```diff
@@ -0,0 +1,87 @@
...
+declare_config_elab elabInclusionConfig InclusionConfig where
+  omit paramSettings, families
+
+/-- Syntax for specifying an inclusion family or parameter. -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/Inclusion/Core/Elab.lean]: In a docstring we generally don't need to say what kind of thing (e.g. syntax) something is, since it will be clear from the hover or the doc-gen output. I've also made clear that this is for the `inclusion` tactic, so the reader can tell there is a better explanation there.

```suggestion
/-- Families and parameters for the `inclusion` tactic -/
```

File: Mathlib/Tactic/Inclusion/Core/Elab.lean [hunk 19]
```diff
@@ -0,0 +1,87 @@
...
+
+/-- Elaborator for the `inclusion` tactic. -/
+@[tactic inclusion]
+def inclusionTac : Tactic
+  | `(tactic| inclusion $cfg:optConfig [$args,*]) => do
+      let options ← elabInclusionConfig cfg
+      let config ← collectInclusionArgs args.getElems
+      let config := { config with kernel := options.kernel, native := options.native }
+      closeMainGoalUsing `inclusion fun goal _ => inclusionCore goal config
+  | _ => throwUnsupportedSyntax
```
Comment (Vierkantor) [inline Mathlib/Tactic/Inclusion/Core/Elab.lean]: I don't think we need a separate `syntax` and elaborator here, right? (I generally dislike the pattern of separating the two, since that makes it hard to find the actual behaviour of a piece of syntax.) It also saves us from having to write a boring docstring for the elaborator :)
```suggestion
elab (name := inclusion) "inclusion" cfg:optConfig " [" args:inclusionArg,* "]" : tactic => do
  let options ← elabInclusionConfig cfg
  let config ← collectInclusionArgs args.getElems
  let config := { config with kernel := options.kernel, native := options.native }
  closeMainGoalUsing `inclusion fun goal _ => inclusionCore goal config
```

File: Mathlib/Tactic/Inclusion/Core/Elab.lean [hunk 20]
```diff
@@ -0,0 +1,87 @@
...
+def inclusion?Tac : Tactic
+  | `(tactic| inclusion? [$args,*]) => do
+      let config ← collectInclusionArgs args.getElems
+      withoutModifyingStateWithInfoAndMessages <| withMainContext do
+        try
+          discard <| inclusionCore (← getMainTarget) config
+          logInfo "The inclusion check succeeded."
+        catch err =>
+          logError m!"The inclusion check failed:\n{err.toMessageData}"
+  | _ => throwUnsupportedSyntax
```
Comment (Vierkantor) [inline Mathlib/Tactic/Inclusion/Core/Elab.lean]:
```suggestion
elab (name := inclusion?) "inclusion?" " [" args:inclusionArg,* "]" : tactic => do
  let config ← collectInclusionArgs args.getElems
  withoutModifyingStateWithInfoAndMessages <| withMainContext do
    try
      discard <| inclusionCore (← getMainTarget) config
      logInfo "The inclusion check succeeded."
    catch err =>
      logError m!"The inclusion check failed:\n{err.toMessageData}"
```

File: Mathlib/Tactic/Inclusion/Core/Elab.lean [hunk 21]
```diff
@@ -0,0 +1,87 @@
...
+@[tactic inclusion]
+def inclusionTac : Tactic
+  | `(tactic| inclusion $cfg:optConfig [$args,*]) => do
+      let options ← elabInclusionConfig cfg
+      let config ← collectInclusionArgs args.getElems
+      let config := { config with kernel := options.kernel, native := options.native }
+      closeMainGoalUsing `inclusion fun goal _ => inclusionCore goal config
+  | _ => throwUnsupportedSyntax
+
+/-- Tactic for quickly checking if the `inclusion` tactic will succeed. -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/Inclusion/Core/Elab.lean]:
```suggestion
/-- `inclusion? [fam₁, ...]` is a proof writing aid that quickly checks if `inclusion [fam₁, ...]`
would close the goal, without doing the expensive kernel computation that actually closes the goal.
-/
```

File: Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean [hunk 22]
```diff
@@ -0,0 +1,46 @@
...
+-/
+
+public meta section
+
+open Lean.Parser.Tactic
+
+namespace Inclusion
+
+/-- `dyadic_interval` runs `inclusion` with the `core` and `interval_dyadic_real` extension
+families. Additional families and inclusion parameters may be supplied in brackets. -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean]:
```suggestion
/-- `dyadic_interval` proves real number equalities, inequalities and interval memberships by
approximating as an interval of dyadic rational numbers.

This tactic is implemented as a family for the `inclusion` tactic: `dyadic_interval` is the same as
`inclusion [core, interval_dyadic_real]`.

* `dyadic_interval [binSplit := n]` splits each interval `n` times, into `2^n` pieces. Higher values
  of `n` make the tactic slower but able to prove more. Default: no splitting.
* `dyadic_interval [prec := n]` uses a precision of `2^-n` when constructing the approximation.
  Higher values of `n` make the tactic slower but able to prove more. Default value: 0.
* `dyadic_interval [fam₁, ... famₙ]` uses the inclusion families `fam₁`, ..., `famₙ` for additional
  reasoning capabilities.
* `dyadic_interval (config := cfg)` uses `cfg` as a configuration for the `inclusion` tactic.
  (See there for further details.)
-/
```

File: Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean (hunk 5 above)
Comment (Vierkantor) [inline Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean]:
```suggestion
/-- `dyadic_interval?` is a proof writing aid that quickly checks if `dyadic_interval` would close
the goal, without doing the expensive kernel computation that actually closes the goal. -/
```

**Review by Vierkantor — COMMENTED** [review]
(Sorry about the useless comments included with the review (now deleted)! Apparently if you make a draft comment as a note to yourself while starting your review and then the code changes underneath you, the draft cannot be deleted or edited.)

I think the code in this PR is overall very nice, good job! It does take a while to understand what everything means though, so some documentation (especially for the end user!) would be good.

I wrote a few docstrings for the tactics and their syntax following [the big style guide](https://github.com/leanprover/lean4/blob/master/doc/style.md) (not required reading but might be nice to check out if you have some time). I also wanted to write something for `inclusion_op` and `hypothesis_op` but couldn't actually find where those are declared!

From our call last week, I would like to give a more specific name to the attributes. Especially to `hypothesis_op`, since currently it is not obvious that `hypothesis_op` belongs to the `inclusion` tactic. Proposal: `inclusion_op` -> `inclusion_bwd` and `hypothesis_op` -> `inclusion_fwd`?

For the back end, what if we turned the PR description, which is nicely done and very complete, into a module doc (for example for `Tactic/Inclusion/Core/Core.lean` or some similarly "core" file)?

With those changes, and the discussions with other reviewers settled, I think this PR is in a good enough state to get merged.

File: Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean:1]: The only reason I didn't do this originally (the import file, not the doc) is because once there are many extension families (some conflicting) and possibly a few wrapper tactics with different settings, it may be undesirable to import everything. I wasn't precisely sure how it would be best to organise this though. It could be one per family one per wrapper but not sure if thats a great idea. There could just temporarily be one import file too.

File: Mathlib/Tactic/Inclusion/Core/Elab.lean (hunk 17 above)
Comment (DavidLedvinka) [reply Mathlib/Tactic/Inclusion/Core/Elab.lean]: This one seems to be needed to pass the linter.

**Comment by DavidLedvinka** [comment]
> (Sorry about the useless comments included with the review (now deleted)! Apparently if you make a draft comment as a note to yourself while starting your review and then the code changes underneath you, the draft cannot be deleted or edited.)
> 
> I think the code in this PR is overall very nice, good job! It does take a while to understand what everything means though, so some documentation (especially for the end user!) would be good.
> 
> I wrote a few docstrings for the tactics and their syntax following [the big style guide](https://github.com/leanprover/lean4/blob/master/doc/style.md) (not required reading but might be nice to check out if you have some time). I also wanted to write something for `inclusion_op` and `hypothesis_op` but couldn't actually find where those are declared!
> 
> From our call last week, I would like to give a more specific name to the attributes. Especially to `hypothesis_op`, since currently it is not obvious that `hypothesis_op` belongs to the `inclusion` tactic. Proposal: `inclusion_op` -> `inclusion_bwd` and `hypothesis_op` -> `inclusion_fwd`?
> 
> For the back end, what if we turned the PR description, which is nicely done and very complete, into a module doc (for example for `Tactic/Inclusion/Core/Core.lean` or some similarly "core" file)?
> 
> With those changes, and the discussions with other reviewers settled, I think this PR is in a good enough state to get merged.

Thanks. The docstrings look good to me. Do you think this change should only be for the ops or should the exts be called BackwardExt, ForwardExt and their atrributes `backward_ext`, `foward_ext` (perhaps there is not enough distinction then between what I am calling `inclusion_bwd` vs `backward_ext` though?)

`inclusion_op` and `hypothesis_op` are in ExtensionAPI/Attr. syntax at line 250 and 312 respectively (and their implementations directly above and below)

**Comment by thorimur** [comment]
Re: attribute naming, one option is to have a single `inclusion` attribute with different syntactic arguments to distinguish different functionalities (somewhat like grind/simp). One advantage of this approach is to have a single unified interface, including e.g. simply a single docstring describing everything you can do with the attribute.

I'm not sure what exactly the arguments should be, but some options spring to mind:
```
@[inclusion ⊢ id]
@[inclusion ⊣ id] (or @[inclusion id ⊢])

@[inclusion → id]
@[inclusion ← id]

@[inclusion ↑ id]
@[inclusion ↓ id]

@[inclusion id]
@[inclusion hyp id]
```
And likewise, the extensions could be handled similarly, with e.g. a `meta` or `ext` keyword following `inclusion`.

Slightly related: I wonder if (1) the `inclusion` extension attribute should require a family as well, and the family and declname should *not* be specified by the user within the `InclusionExt`, but should be managed on the meta level uniformly (perhaps there is some obstruction to this I haven't grasped yet?) (2) we should do family validation at the site of each attribute; is silently making things part of a nonexistent family a risk?

Just an idea, though! We needn't block this PR on either of these. We can always refactor later.

File: Mathlib/Tactic/Inclusion/Core/Elab.lean [hunk 23]
```diff
@@ -0,0 +1,340 @@
...
+      let value ← elabTerm valueStx decl.type
+      Term.synthesizeSyntheticMVarsNoPostponing
+      let value ← instantiateMVars value
+      paramSettings := paramSettings.insert name value
+    | _ => throwUnsupportedSyntax
+  if families.isEmpty then
+    throwError "At least one inclusion family must be specified"
+  return { paramSettings, families }
+
+/-- `inclusion` tactic for proving "inclusion" propositions. -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/Inclusion/Core/Elab.lean]: Oops, did I just totally forget to actually make a suggestion for this docstring? Sorry!
```suggestion
/-- `inclusion [fam₁, fam₂, ...]` is a low-level tactic for proving the main goal by reasoning
about the set inclusion operator `∈` using the *inclusion families* `fam₁`, `fam₂`, ...
The goal `⊢ P` is first transformed into `⊢ P ∈ {True}` and then each family defines forward-
and backward reasoning rules to replace the goal with a form suitable for checking by computation
in the kernel, in other words, something that can be solved `by decide`.

`inclusion` is very flexible and intended as a building block for other tactics with a more
specific ambition, for example `dyadic_interval`.
 
An inclusion family is declared using `registerInclusionFamily` and can be extended using the
`inclusion_op` and `hypothesis_op` attributes.
The `core` family provides reasoning about logical operators `∧`, `∨`, `¬` and `=`. This family
is recommented to be included by default.
 

* `inclusion [fam₁, x := e]` sets the parameter named `x` to the value of the term `e`.
  All the families in an `inclusion` call can access this parameter.
* `inclusion (config := cfg) [fam₁, ...]` uses `cfg : InclusionConfig` as configuration options.
  In particular:
  * `inclusion +native [fam₁, ...]` only uses evaluation, rather than kernel computation, to perform
    the final proof check. Warning: this adds the Lean compiler to the trusted codebase.
  * `inclusion +kernel [fam₁, ...]` only uses the kernel to perform the final proof check and skips
    the (usually faster) evaluation-based check beforehand.
-/
```

File: Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean (hunk 6 above)
Comment (joneugster) [reply Mathlib/Tactic/Inclusion/Core/DiscrTreeExt.lean]: Thanks for the explanation and sorry for not being specific. Indeed I was only asking about the comment since `have : BEq α := ⟨fun _ _ ↦ false⟩` looked odd to me. From your explanation, I think I would have understood the following comment better, as the current comment suggests that there is some deduplication happening:

```suggestion
  -- we prevent any deduplication in the DiscrTree
```

completely optional, though since that snippet is copied over, up to you.

File: Mathlib/Tactic/Inclusion/Extension/Interval.lean
Comment (joneugster) [reply Mathlib/Tactic/Inclusion/Extension/Interval.lean:1]: That makes sense 👍

**Comment by joneugster** [comment]
since Anne & Thomas are currently actively reviewing here, I'll skip this PR for the time being. Please ping me on Zulip if the activity dies down or if you feel like it would be helpful if I looked at this PR again :)

File: Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean (hunk 5 above)
Comment (joneugster) [reply Mathlib/Tactic/Inclusion/Extension/IntervalDyadicReal/Tactic.lean]: In that case that's fine. I also see Anne's docstring suggestion below is completely addressing this with an understandable docstring.

**Comment by ocfnash** [comment]
Thank you all for the great work here.

It seems that review has converged modulo subjective naming decisions. Given the size of this PR, I declare that we should therefore merge.

bors merge

**Comment by Vierkantor** [comment]
I like Thomas' suggestion a lot! Would definitely merge a change to that kind of notation too.
